US05620995
b) 3-Mercaptopyridine-2-carboxylic acid N-((methoxycarbonyl)methyl)amide
1.69 g of 3-mercaptopyridine-2-carboxylic acid were dissolved in 20 ml of DMF and 7.5 ml of N-ethylmorpholine, 1.7 g of 1-hydroxy-1H-benzotriazole, 5 g of N-cyclohexyl-N'-(2-morpholinoethyl)-carbodiimide methyl-p-toluenesulfonate and 4.3 g of glycine methyl ester hydrochloride were added successively at room temperature and whilst stirring. After having been stirred for 12 hours, the mixture was partitioned between a saturated aqueous solution of ammonium chloride and dichloromethane and the organic phase was dried and concentrated by evaporation; the residue was purified by chromatography on silica gel (eluent: ethyl acetate/heptane); yield, 0.65 g of colourless crystals of m.p. 178°-179° C. (ethyl acetate/heptane).

reactant | 3-mercaptopyridine-2-carboxylic acid | 1.69 g | SC=1C(=NC=CC1)C(=O)O | C6H5NO2S
reactant | 1-hydroxy-1H-benzotriazole | 1.7 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-cyclohexyl-N'-(2-morpholinoethyl)-carbodiimide methyl-p-toluenesulfonate | 5 g | COS(=O)(=O)C1=CC=C(C=C1)C.C1(CCCCC1)N=C=NCCN1CCOCC1
reactant | glycine methyl ester hydrochloride | 4.3 g | Cl.COC(CN)=O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | N-ethylmorpholine | 7.5 ml | C(C)N1CCOCC1 | C6H13NO
solvent | ethyl acetate heptane | C(C)(=O)OCC.CCCCCCC
product | 3-Mercaptopyridine-2-carboxylic acid N-((methoxycarbonyl)methyl)amide | COC(=O)CNC(=O)C1=NC=CC=C1S | C9H10N2O3S
